US06538016B2
To 2-{4-[2-(4-fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine (15.7 g) dissolved in diethylether (200 ml) is added 1M hydrogen chloride solution in diethylether (75 ml). The resulting residue is isolated by separation in a centrifuge and decantation. 2-{4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine hydrochloride is obtained.

reactant | 2-{4-[2-(4-fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine | 15.7 g | FC1=CC=C(OCCOC2=C(C=C(C=C2)CCN)OC)C=C1 | C17H20FNO3
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | diethylether | 75 ml | C(C)OCC | C4H10O
product | 2-{4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine hydrochloride | Cl.FC1=CC=C(OCCOC2=C(C=C(C=C2)CCN)OC)C=C1 | InChI=1S/C17H20FNO3.ClH/c1-20-17-12-13(8-9-19)2-7-16(17)22-11-10-21-15-5-3-14(18)4-6-15;/h2-7,12H,8-11,19H2,1H3;1H
